US09302991B2
<Step-3>:(R)—N-(1-(3-chloro-4-(2,2-difluoroethoxy)phenyl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 62% yield (780 mg, clear colorless oil) from 1-(3-chloro-4-(2,2-difluoroethoxy)phenyl)ethanone (860 mg, 3.7 mmol, Step-2) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(3-chloro-4-(2,2-difluoroethoxy)phenyl)ethanone | 3.7 mmol, 860 mg | ClC=1C=C(C=CC1OCC(F)F)C(C)=O | C10H9ClF2O2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(3-chloro-4-(2,2-difluoroethoxy)phenyl)ethyl)-2-methylpropane-2-sulfinamide | 62% yield | ClC=1C=C(C=CC1OCC(F)F)C(C)N[S@](=O)C(C)(C)C | C14H20ClF2NO2S
